US05374646
Ethyl 5-methyl-2-pentyl-1H-imidazole4-carboxylate
Ethyl 2-amino-3-ketobutanoate hydrochloride (3.0 g) was added portionwise to a solution of Intermediate 157 (30 g) and triethylamine (26 ml) in ethanol (500 ml) under nitrogen. The resulting solution was left to stand at 22° for 72 h. The solvent was removed in vacuo, then the residue was dissolved in ethyl acetate (200 ml) and washed with water (200 ml). The aqueous layer was further extracted with ethyl acetate (200 ml). The combined organic extracts were dried, concentrated in vacuo and the residue purified by chromatography eluting with System A (8:2) to obtain the title Compound (3.05 g) as a pale yellow solid, m.p. 89°-90° C.

reactant | Ethyl 2-amino-3-ketobutanoate hydrochloride | 3.0 g | Cl.NC(C(=O)OCC)C(C)=O
reactant | triethylamine | 26 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | Ethyl 5-methyl-2-pentyl-1H-imidazole4-carboxylate | 3.05 g | CC1=C(N=C(N1)CCCCC)C(=O)OCC | C12H20N2O2
